US06960575B2
Ethyl (2RS)-2-amino-4-methoxybutyrate hydrochloride (Reference compound No. 54-1)
Sodium hydride (1.8 g) is added to a solution of N-(diphenylmethylene)glycine ethyl ester in tetrahydrofuran under ice cooling, then the temperature is raised to room temperature, and the mixture is stirred for one hour. 2-Bromoethyl methyl ether (4.22 ml) is added to the mixture, and the whole is refluxed overnight. The reaction mixture is cooled to room temperature, 0.1 N hydrochloric acid is added thereto, and the whole is stirred for four hours. Ethyl acetate is added to the reaction mixture, and the whole is extracted with 0.1 N hydrochloric acid. The extract is basified with a saturated aqueous sodium hydrogencarbonate solution, and the whole is extracted with ethyl acetate. The extract is washed with saturated brine and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure, a 4 N hydrogen chloride/ethyl acetate solution is added to the resulting residue, and the whole is concentrated under reduced pressure again to give the titled reference compound (2.67 g).

reactant | Sodium hydride | 1.8 g | [H-].[Na+]
reactant | N-(diphenylmethylene)glycine ethyl ester | C(C)OC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17NO2
reactant | 2-Bromoethyl methyl ether | 4.22 ml | COCCBr | C3H7BrO
reactant | hydrochloric acid | 0.1 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl (2RS)-2-amino-4-methoxybutyrate hydrochloride | 2.67 g | Cl.NC(C(=O)OCC)CCOC | InChI=1S/C7H15NO3.ClH/c1-3-11-7(9)6(8)4-5-10-2;/h6H,3-5,8H2,1-2H3;1H
